US07446121B2
To a solution of [(4-fluoro-phenyl)-hydrazono]-chloroacetic acid methyl ester (20.93 g, 90.8 mmol) and 4-methyl-pent-2-enoic acid benzyl ester (18.54 g, 90.8 mmol) in dioxane (400 mL) at 25° C. was added Ag2CO3 (63.0 g, 227 mmol; commercially available from Sigma Aldrich). The reaction was protected from light and stirred at 25° C. for 48 hr. Subsequently, the reaction mixture was filtered through a pad of celite and the filtrate was concentrated. The crude product mixture was subjected to silica gel chromatography (5-20% EtOAc/Hex) to afford 1-(4-fluoro-phenyl)-4-isopropyl-4,5-dihydro-1H-pyrazole-3,5-dicarboxylic acid 5-benzyl ester 3-methyl ester in approximately 90% purity (29.3 g, 73%):: H-NMR (CDCI3) δ 7.30-7.24 (m, 3 H), 7.15-7.12 (m, 2 H), 7.01-6.96 (m, 2 H), 6.93-6.88 (m, 2 H), 5.14 (d, 1 H), 4.58 (d, 1 H), 3.83 (s, 3 H), 3.51-3.49 (m, 1 H), 2.40-2.36 (m, 1 H), 1.00 (d, 3 H), 0.69 (d, 3 H).

reactant | [(4-fluoro-phenyl)-hydrazono]-chloroacetic acid methyl ester | 90.8 mmol, 20.93 g | COC(C(Cl)=NNC1=CC=C(C=C1)F)=O | C9H8ClFN2O2
reactant | 4-methyl-pent-2-enoic acid benzyl ester | 90.8 mmol, 18.54 g | C(C1=CC=CC=C1)OC(C=CC(C)C)=O | C13H16O2
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 1-(4-fluoro-phenyl)-4-isopropyl-4,5-dihydro-1H-pyrazole-3,5-dicarboxylic acid 5-benzyl ester 3-methyl ester | COC(=O)C1=NN(C(C1C(C)C)C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C22H23FN2O4
